US08048878B2
Synthesis of methyl 3-(2-ethoxycarbonylvinyl)-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate
Diethylamine (2 mL) was added to a solution of 2-(2-ethoxycarbonylvinyl)-6-(3,4,5-trifluorophenyl)piperazine-1,4-dicarboxylic acid 1-(9H-fluoren-9-ylmethyl) ester 4-methyl ester (1.03 g) in acetonitrile (10 mL), and the reaction solution was stirred at room temperature for one hour. The reaction solution was concentrated, and the residue was purified by silica gel column chromatography (heptane->ethyl acetate) to obtain 422 mg of an E/Z isomer mixture of the title compound. The property value of the compound is as follows.

reactant | Diethylamine | 2 mL | C(C)NCC | C4H11N
reactant | 2-(2-ethoxycarbonylvinyl)-6-(3,4,5-trifluorophenyl)piperazine-1,4-dicarboxylic acid 1-(9H-fluoren-9-ylmethyl) ester 4-methyl ester | 1.03 g | COC(=O)N1CC(N(C(C1)C1=CC(=C(C(=C1)F)F)F)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C=CC(=O)OCC | C32H29F3N2O6
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 3-(2-ethoxycarbonylvinyl)-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate | C(C)OC(=O)C=CC1CN(CC(N1)C1=CC(=C(C(=C1)F)F)F)C(=O)OC | C17H19F3N2O4
